US04859229
4.24 g of boron trifluoride etherate and 6.75 g of 3-(5-amino-4-chloro-2-fluorophenyl)-1 -methyl-6-trifluoromethyl-2,4(1H,3H)-pyrimidinedione are placed at -15° C. in 50 ml of methylene chloride. A solution of 3.2 ml of isopentyl nitrite in 20 ml of methylene chloride is added dropwise to the mixture within 20 minutes while cooling. The mixture is subsequently stirred at 5° C. for 45 minutes, 25 treated with 50 ml of n-pentane and the resulting crystals are filtered off. There is obtained 2-chloro-5-[3,6-dihydro-2,6-dioxo -3-methyl-4-trifluoromethyl-1(2H)-pyrimidinyl]-4-fluorobenzenediazonium tetrafluoroborate. m.p. 191° C. (decomposition).

reactant | boron trifluoride etherate | 4.24 g | B(F)(F)F.CCOCC
reactant | 3-(5-amino-4-chloro-2-fluorophenyl)-1 -methyl-6-trifluoromethyl-2,4(1H,3H)-pyrimidinedione | 6.75 g | NC=1C(=CC(=C(C1)N1C(N(C(=CC1=O)C(F)(F)F)C)=O)F)Cl | C12H8ClF4N3O2
reactant | isopentyl nitrite | 3.2 ml | N(=O)OCCC(C)C | C5H11NO2
reactant | n-pentane | 50 ml | CCCCC | C5H12
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | 2-chloro-5-[3,6-dihydro-2,6-dioxo -3-methyl-4-trifluoromethyl-1(2H)-pyrimidinyl]-4-fluorobenzenediazonium tetrafluoroborate | F[B-](F)(F)F.ClC1=C(C=C(C(=C1)F)N1C(N(C(=CC1=O)C(F)(F)F)C)=O)[N+]#N | InChI=1S/C12H6ClF4N4O2.BF4/c1-20-9(12(15,16)17)4-10(22)21(11(20)23)8-3-7(19-18)5(13)2-6(8)14;2-1(3,4)5/h2-4H,1H3;/q+1;-1
